US06100272
5-[2'-Methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-1'-n-propyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
The title compound was prepared from 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E18) and 1-bromopropane using a similar procedure to Example 19, as a colourless oil (78%). This was converted to its hydrochloride salt and crystallised from acetone.

reactant | 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C32H33N3O3
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 5-[2'-Methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-1'-n-propyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCN(CC1)CCC)CO3 | C35H39N3O3
